US06258812B1
1-(4-Chloroanilino)-4-(4-pyridyimethyl)phthalazine hydrochloride
A mixture of 0.972 g (3.8 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine, 0.656 g (4 mmol) 4-chloroaniline hydrochloride (Research Organics, Inc., Cleveland, Ohio, USA) and 20 ml ethanol is heated for 2 h under reflux. The reaction mixture is cooled in an ice bath, filtered, and the crystallizate washed with a little ethanol and ether. After drying under HV for 8 h at 110° C. and for 10 h at 150° C., the title compound is obtained as a result of thermal removal of HCl; m.p. >270° C.; 1H NMR (DMSO-d6) 9.80-11.40 (br), 8.89-8.94 (m, 1H), 8.67 (d, 2H), 8.25-8.30 (m, 1H), 8.06-8.17 (m, 2H), 7.87 (d, 2H), 7.69 (d, 2H), 7.49 (d, 2H), 4.81 (s, 2H); ESI-MS: (M+H)+=347.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 3.8 mmol, 0.972 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-chloroaniline hydrochloride | 4 mmol, 0.656 g | Cl.ClC1=CC=C(N)C=C1
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-Chloroanilino)-4-(4-pyridyimethyl)phthalazine hydrochloride | Cl.ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | InChI=1S/C20H15ClN4.ClH/c21-15-5-7-16(8-6-15)23-20-18-4-2-1-3-17(18)19(24-25-20)13-14-9-11-22-12-10-14;/h1-12H,13H2,(H,23,25);1H
